US08809339B2
3-((2-((2-phenylpyrimidin-5-yl)carbamoyl)-4-(piperidin-1-yl)phenyl)-carbamoyl)benzoic acid
To a solution of methyl 3-((2-((2-phenylpyrimidin-5-yl)carbamoyl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzoate (1200 mg, 2.02 mmol, 1.00 equiv, 90%) in tetrahydrofuran/water (5:1) (30 mL) was added lithium hydroxide hydrate (420 mg, 9.97 mmol, 8.00 equiv, 95%) and the resulting solution was stirred for 3 h at 40° C. in an oil bath. The mixture was concentrated under vacuum and the residue was adjusted to pH 3-4 with hydrochloric acid. The mixture was extracted with 3×100 mL of tetrahydrofuran and the organic layers combined, washed with 1×100 mL of brine and then concentrated under vacuum to afford 1000 mg (95%) of a green to yellow solid.

reactant | methyl 3-((2-((2-phenylpyrimidin-5-yl)carbamoyl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzoate | 2.02 mmol, 1200 mg, 1.00 equiv | C1(=CC=CC=C1)C1=NC=C(C=N1)NC(=O)C1=C(C=CC(=C1)N1CCCCC1)NC(=O)C=1C=C(C(=O)OC)C=CC1 | C31H29N5O4
reactant | lithium hydroxide hydrate | 9.97 mmol, 420 mg, 8.00 equiv | O.[OH-].[Li+]
solvent | tetrahydrofuran water | 30 mL | O1CCCC1.O
product | 3-((2-((2-phenylpyrimidin-5-yl)carbamoyl)-4-(piperidin-1-yl)phenyl)-carbamoyl)benzoic acid | C1(=CC=CC=C1)C1=NC=C(C=N1)NC(=O)C1=C(C=CC(=C1)N1CCCCC1)NC(=O)C=1C=C(C(=O)O)C=CC1 | C30H27N5O4
